US04618358
Diethyl N-[2-nitro-5-(5-trifluoromethyl-2-pyridyloxy)phenyl]-aminomethylphosphonate (compound 25)
With stirring, 7.6 g (0.045 mole) of diethyl aminomethylphosphonate are added dropwise to a solution of 15 g (0.045 mole) of (5-trifluoromethyl-2-pyridyloxy)-3,4-dinitrobenzene in 50 ml of toluene, and the mixture is heated for 12 hours to reflux. The mixture is then concentrated and the residue is chromatographed over silica gel with a 1:4 mixture of hexane/ethyl acetate, affording 9.8 g (48.7% of theory) of the title compound with a melting point of 74°-76° C.

reactant | diethyl aminomethylphosphonate | 0.045 mole, 7.6 g | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | (5-trifluoromethyl-2-pyridyloxy)-3,4-dinitrobenzene | 0.045 mole, 15 g | FC(C=1C=CC(=NC1)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])(F)F | C12H6F3N3O5
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl N-[2-nitro-5-(5-trifluoromethyl-2-pyridyloxy)phenyl]-aminomethylphosphonate | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)NCP(OCC)(OCC)=O | C17H19F3N3O6P
